* IRF7309 gate charge at the datasheet operating points.
* A constant 1-mA gate current makes elapsed microseconds equal charge in nC.
.temp 25
.lib ../IRF7309_N.txt
.lib ../IRF7309_P.txt
.model DCLAMP D(IS=1m N=0.1 RS=10m CJO=0)

* N-channel: VDS=16 V, ID=2.6 A, final VGS=4.5 V.
V_NDD ndd 0 16
I_NLOAD ndd nd 2.6
D_NCLAMP nd ndd DCLAMP
I_NG 0 ng PULSE(0 1m 0 1n 1n 100u 200u)
R_NGDC ng 0 1G
M_NQ nd ng 0 0 IRF7309_N

* P-channel: VDS=-16 V, ID=-2.2 A, final VGS=-4.5 V.
V_PDD pdd 0 -16
I_PLOAD pd pdd 2.2
D_PCLAMP pdd pd DCLAMP
I_PG pg 0 PULSE(0 1m 0 1n 1n 100u 200u)
R_PGDC pg 0 1G
M_PQ pd pg 0 0 IRF7309_P

.options reltol=1e-5 abstol=1e-12 vntol=1e-8 gmin=1e-12
.tran 0 35u 0 2n

* With IG=1 mA: t[us] numerically equals Q[nC].
.meas TRAN N_QG_TYP WHEN V(ng)=4.5 RISE=1
.meas TRAN N_QG_MAX WHEN V(ng)=4.5 RISE=1
.meas TRAN P_QG_TYP WHEN V(pg)=-4.5 FALL=1
.meas TRAN P_QG_MAX WHEN V(pg)=-4.5 FALL=1
.end
